US04150137
A mixture of 0.05 g of sodium and 8 ml of 3-hydroxymethylpyridine was heated at 65°-70° C. for 10 hours. To this mixture was added 3.8 g of 2-(p-isobutylphenyl)propionic acid methyl ester, and the whole was heated at 95°-100° C. for 8 hours. After cooling to room temperature, 100 ml of water was added. The resulting mixture was extracted with ether, and the ether was distilled away from the extract to leave a residue. The residue was passed through a column of silica gel, and the adsorbate was eluted with chloroform. The eluates were freed of chloroform in vacuo to give 2.9 g of 2-(p-isobutylphenyl)propionic acid-3-pyridylmethyl ester as a colorless oil. The infrared spectrum showed strong C=O absorption at 1730 cm-1 characteristic for ester. Mass spectrum: parent ion 297 m/e.

reactant | sodium | 0.05 g | [Na] | Na
reactant | 3-hydroxymethylpyridine | 8 ml | OCC=1C=NC=CC1 | C6H7NO
reactant | 2-(p-isobutylphenyl)propionic acid methyl ester | 3.8 g | COC(C(C)C1=CC=C(C=C1)CC(C)C)=O | C14H20O2
solvent | water | 100 ml | O | H2O
product | 2-(p-isobutylphenyl)propionic acid-3-pyridylmethyl ester | 2.9 g | N1=CC(=CC=C1)COC(C(C)C1=CC=C(C=C1)CC(C)C)=O | C19H23NO2
